US04251543
4.8 g of 2-(p-prenylphenyl)propionic acid as prepared in Example 1 was dissolved in 5% aqueous sodium hydroxide solution to adjust to pH 9.0. After evaporation of the water, the resulting solid was recystallized from ethyl acetate to give 4.5 g of sodium 2-(p-prenylphenyl)propionate, colorless prisms, m.p. 65°-66° C.

reactant | 2-(p-prenylphenyl)propionic acid | 4.8 g | C(C=C(C)C)C1=CC=C(C=C1)C(C(=O)O)C | C14H18O2
reactant | sodium hydroxide | [OH-].[Na+]
product | sodium 2-(p-prenylphenyl)propionate | 4.5 g | C(C=C(C)C)C1=CC=C(C=C1)C(C(=O)[O-])C.[Na+] | InChI=1S/C14H18O2.Na/c1-10(2)4-5-12-6-8-13(9-7-12)11(3)14(15)16;/h4,6-9,11H,5H2,1-3H3,(H,15,16);/q;+1/p-1
